US08492378B2
3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]-1-(2-thienyl)propan-1-one
To a solution of 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]-N-methoxy-N-methylpropionamide (2.50 g, 8.24 mmol) in tetrahydrofuran (50 mL) was added 1 M (2-thienyl)magnesium bromide-tetrahydrofuran solution (9.9 mL, 9.9 mmol), and the resulting mixture was stirred at room temperature for 1 hr. A saturated aqueous ammonium chloride solution (50 mL) and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/ethyl acetate to give the title compound (1.10 g, yield 41%) as colorless crystals.

reactant | 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]-N-methoxy-N-methylpropionamide | 8.24 mmol, 2.50 g | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)CCC(=O)N(C)OC | C15H17N3O4
reactant | (2-thienyl)magnesium bromide tetrahydrofuran | 9.9 mmol, 1 M, 9.9 mL | S1C(=CC=C1)[Mg]Br.O1CCCC1
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]-1-(2-thienyl)propan-1-one | 1.10 g, yield 41% | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)CCC(=O)C=2SC=CC2 | C17H14N2O3S
